US07314886B2
56.A. Synthesis of 3-(1-Ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propanoic Acid
To a stirred solution of ethyl 3-(1-ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propanoate (0.28 g, 0.72 mmol) in dioxane (6 ml) was added lithium hydroxide monohydrate (0.18 g, 4.3 mmol) and water (3 ml). The mixture was stirred at room temperature for 8 hr. It was concentrated under reduced pressure, neutralized with 5% HCl, extracted with EtOAc, and dried over MgSO4. The solvent concentrated and purified by silica gel flash column chromatography dichloromethane/methanol (8:2) to give the product (0.09 g, 35%). 1H NMR (300 MHz, CDCl3) δ 7.77 (br, NH)), 7.19 (d, 1H), 6.91 (d, 1H), 4.04 (m, 2H), 3.68 (m, 2H), 3.16 (m, 1H), 3.06 (t, 2H), 2.85 (m, 1H), 2.74 (m, 3H), 2.18 (m, 1H), 1.98 (m, 3H), 1.35 (d, 6H), 0.94 (t, 3H); ESI (+) MS m/e=360 (MH+), ESI (−) MS m/e=358 (MH−).

reactant | ethyl 3-(1-ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propanoate | 0.72 mmol, 0.28 g | C(C)C1(OCCC2=C1NC1=C(C=C(C=C21)CCC(=O)OCC)C(C)C)CCO | C23H33NO4
reactant | lithium hydroxide monohydrate | 4.3 mmol, 0.18 g | O.[OH-].[Li+]
reactant | water | 3 ml | O | H2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 3-(1-Ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propanoic Acid | 0.09 g, 35% | C(C)C1(OCCC2=C1NC1=C(C=C(C=C21)CCC(=O)O)C(C)C)CCO | C21H29NO4
